US05436252
5-(2-Thienyl)-2,4-dihydro-4-methyl-3H-1,2,4-triazol-3-one
When, in the procedure of Example 4, 1-(2-thienoyl)-4-methylsemicarbazide is substituted for 1-(4-chlorobenzoyl)-4-ethylsemicarbazide, the title compound is obtained. Mp 183°-185° C.

reactant | 1-(2-thienoyl)-4-methylsemicarbazide | S1C(=CC=C1)C(=O)NNC(=O)NC | C7H9N3O2S
reactant | 1-(4-chlorobenzoyl)-4-ethylsemicarbazide | ClC1=CC=C(C(=O)NNC(=O)NCC)C=C1 | C10H12ClN3O2
product | 5-(2-Thienyl)-2,4-dihydro-4-methyl-3H-1,2,4-triazol-3-one | S1C(=CC=C1)C=1N(C(NN1)=O)C | C7H7N3OS
